US08859588B2
N-[2-Methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-benzamide
The title compound was synthesized substantially in the same manner as Example 3 by coupling of 2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-ylamine (0.025 g, 0.096 mmol) with benzoyl chloride (0.041 g, 0.288 mmol) in dichloromethane (3 mL) and pyridine (0.5 mL) to obtain 0.0084 (24% yield) of the title compound.

reactant | 2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-ylamine | 0.096 mmol, 0.025 g | CC1=NC(=CC=C1N)N1C[C@H](CC1)N1[C@H](CCC1)C | C15H24N4
reactant | benzoyl chloride | 0.288 mmol, 0.041 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | N-[2-Methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-benzamide | CC1=NC(=CC=C1NC(C1=CC=CC=C1)=O)N1C[C@H](CC1)N1[C@H](CCC1)C | C22H28N4O
